US04003904
Thus 2,2-diphenyl-4-(2-azabicyclo[2.2.2]oct-2-yl)butyronitrile described in U.S. Pat. No. 3,318,869 is reacted with sodium azide in DMF to provide 5-[1,1-diphenyl-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1H-tetrazole. This tetrazole is reacted with ethyl chloroglyoxylate in pyridine at -6° C to provide ethyl [1,1-diphenyl-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1,3,4-oxadiazole-2-carboxylate hydrochloride. This ester is hydrolysed in aqueous potassium hydroxide to provide 5-[1,1-diphenyl-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1,3,4-oxadiazole-2-carboxylic acid. Heating this acid for 15 minutes in an oil bath at 130°-140° provides 5-[1,1-diphenyl-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1,3,4-oxadiazole. The hydrochloride salt melts at 233°-234.5° C.

reactant | 2,2-diphenyl-4-(2-azabicyclo[2.2.2]oct-2-yl)butyronitrile | C1(=CC=CC=C1)C(C#N)(CCN1C2CCC(C1)CC2)C2=CC=CC=C2 | C23H26N2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-[1,1-diphenyl-3-(2-azabicyclo[2.2.2]oct-2-yl)propyl]-1H-tetrazole | C1(=CC=CC=C1)C(CCN1C2CCC(C1)CC2)(C2=CC=CC=C2)C2=NN=NN2 | C23H27N5
